US07176227B2
Synthesis of 4-dipropylamino-1-butanol
In anhydrous methanol (20 ml), 4-amino-1-butanol (manufactured by Tokyo Kasei Kogyo Co., Ltd.) (1.03 g) was dissolved. Then, the solution was added with sodium cyanoborohydride (2.18 g), acetic acid (5.00 ml), and propionaldehyde (2.08 ml), followed by stirring under a nitrogen atmosphere at room temperature for 1 week. After completion of the reaction, the solvent was distilled off and the residue was then dissolved in chloroform, followed by stirring after the addition of a saturated aqueous sodium bicarbonate solution. The resultant solution was subjected to extraction with chloroform. The extract was washed with a saturated aqueous sodium bicarbonate solution and saturated saline solution, followed by drying of the organic layer with anhydrous sodium sulfate. The solvent was distilled off, thereby obtaining the subject compound (2.54 g) as a colorless liquid.

reactant | 4-amino-1-butanol | 1.03 g | NCCCCO | C4H11NO
reactant | sodium cyanoborohydride | 2.18 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 5.00 ml | C(C)(=O)O | C2H4O2
reactant | propionaldehyde | 2.08 ml | C(CC)=O | C3H6O
solvent | methanol | 20 ml | CO | CH4O
product | 4-dipropylamino-1-butanol | 2.54 g | C(CC)N(CCCCO)CCC | C10H23NO
